US07547691B2
(A). Preparation of benzo[b]thiophene-6-sulfonic acid benzhydrylamide
To a suspension of magnesium (1.14 g, 46.9 mmol) in dry THF (50 mL) is added iodine (100 mg) followed by slow addition of 6-bromobenzo[b]thiophene (5.00 g, 23.5 mmol) in dry THF (100 mL) at 64° C. (internal temperature) under a nitrogen atmosphere. During the addition, dry toluene (20 mL) is added to the mixture. When addition is completed, the mixture is heated at 68° C. (internal temperature) for 3 hours then cooled to −60° C. where a stream of sulfur dioxide is passed through the solution for 10 minutes. The mixture is allowed to warm to room temperature, the sulfur dioxide bubbling continues for an additional 5 minutes, and the mixture is stirred for 45 minutes. After filtration and concentration, a reddish solid is obtained (8.0 g), which is diluted with dichloromethane (235 mL), treated with N-chlorosuccinimide (3.45 g, 25.8 mmol) at room temperature, and stirred for 2 hours. After filtration and concentration, a reddish solid is obtained (5.8 g), which is diluted with dichloromethane (234 mL), treated with aminodiphenylmethane (20.2 mL, 117 mmol) at 0° C. and the mixture is stirred for 1 hour. Water (200 mL) is added and the mixture is extracted with dichloromethane (3×200 mL). The organic layers are dried (MgSO4) and concentrated. The crude product is suspended in dichloromethane/hexane before it is filtered to give the title compound as a white solid. The filtrate is concentrated and the residue is chromatographed on silica gel (dichloromethane) to give a second crop of title compound (total 2.52 g). ES+(m/z) 378 [M−H].

reactant | magnesium | 46.9 mmol, 1.14 g | [Mg] | Mg
reactant | iodine | 100 mg | II | I2
reactant | 6-bromobenzo[b]thiophene | 23.5 mmol, 5.00 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 25.8 mmol, 3.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | aminodiphenylmethane | 117 mmol, 20.2 mL | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 235 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 234 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | benzo[b]thiophene-6-sulfonic acid benzhydrylamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NS(=O)(=O)C=1C=CC2=C(SC=C2)C1 | C21H17NO2S2
